US05665888
Synthesis of N-(2-phenylethyl)-2-(2-dimethylaminomethylidenaminothiazol-4-yl)-2-methoxyiminoacetamide
Dimethylaminochloromethyleneammonium chloride (430 mg, 3.36 mmol) was dissolved in 15 ml of tetrahydrofuran. Added to the solution were 860 mg (3.36 mmol) of (Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetyl chloride hydrochloride, followed by stirring at room temperature for 1 hour. To the solution so obtained, a solution of 1.02 g (10.1 mmol) of triethylamine and 0.35 g (2.9 mmol) of β-phenethylamine in 4 ml of tetrahydrofuran was added. The mixture so obtained was stirred for 2 hours under ice-cooling and further for 15 hours at room temperature. The reaction mixture was added with 100 ml of water and then extracted three times with 50 ml portions of chloroform. The organic phases were combined, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue so obtained was purified by chromatography on a silica gel column, whereby 0.98 g of the title compound was obtained (yield: 95%).

reactant | Dimethylaminochloromethyleneammonium chloride | 3.36 mmol, 430 mg | [Cl-].CN(C)[NH+]=CCl
reactant | (Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetyl chloride hydrochloride | 3.36 mmol, 860 mg | Cl.NC=1SC=C(N1)/C(/C(=O)Cl)=N/OC
reactant | triethylamine | 10.1 mmol, 1.02 g | C(C)N(CC)CC | C6H15N
reactant | β-phenethylamine | 2.9 mmol, 0.35 g | C1=CC=C(C=C1)CCN | C8H11N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | N-(2-phenylethyl)-2-(2-dimethylaminomethylidenaminothiazol-4-yl)-2-methoxyiminoacetamide | 0.98 g, yield: 95% | C1(=CC=CC=C1)CCNC(C(=NOC)C=1N=C(SC1)N=CN(C)C)=O | C17H21N5O2S
